US08859557B2
80.0 mg (0.16 mmol) of N-[5-cyano-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-(1-methylpiperidin-4-yl)piperazine-1-carboxamide were dissolved in dimethylformamide, and 7.63 mg (0.19 mmol, 60% w/w) of sodium hydride were added at 0° C. For the deprotonation of the 1,3-dihydro-2H-indol-2-on derivative, the mixture was stirred for 10 minutes, and 39.4 mg (0.19 mmol) of 4-methoxybenzenesulphonyl chloride were then added. The mixture was then allowed to warm to room temperature and stirred for 30 minutes. The progress of the reaction was monitored by TLC (silica gel, dichloromethane/methanol 1:1). Saturated sodium bicarbonate solution and ethyl acetate were added to the reaction mixture, and the phases were then separated. The aqueous phase was reextracted with ethyl acetate (1×). The combined organic phase was washed with water (1×) and saturated sodium chloride solution (1×), dried over magnesium sulphate and filtered, and the solvent was removed under reduced pressure. The residue was purified by preparative MPLC (ISCO Companion, 4 g NP cartridge) using the mobile phases dichloromethane/methanol (5-20%). What was isolated were 27.3 mg (0.04 mmol, 23% yield, 90% purity) of N-[5-cyano-3-(2-ethoxypyridin-3-yl)-1-[(4-methoxyphenyl)sulphonyl]-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-(1-methylpiperidin-4-yl)piperazine-1-carboxamide.

reactant | N-[5-cyano-3-(2-ethoxypyridin-3-yl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-(1-methylpiperidin-4-yl)piperazine-1-carboxamide | 0.16 mmol, 80.0 mg | C(#N)C=1C=C2C(C(NC2=CC1)=O)(C=1C(=NC=CC1)OCC)NC(=O)N1CCN(CC1)C1CCN(CC1)C | C27H33N7O3
reactant | sodium hydride | 0.19 mmol, 7.63 mg | [H-].[Na+]
reactant | 1,3-dihydro-2H-indol-2-on | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 4-methoxybenzenesulphonyl chloride | 0.19 mmol, 39.4 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane methanol | ClCCl.CO
product | N-[5-cyano-3-(2-ethoxypyridin-3-yl)-1-[(4-methoxyphenyl)sulphonyl]-2-oxo-2,3-dihydro-1H-indol-3-yl]-4-(1-methylpiperidin-4-yl)piperazine-1-carboxamide | 0.04 mmol, 27.3 mg, 23% yield | C(#N)C=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)OC)=O)(C=1C(=NC=CC1)OCC)NC(=O)N1CCN(CC1)C1CCN(CC1)C | C34H39N7O6S
